US04680284
2-Ethoxycarbonylaminoindan-2-carboxylic Acid (EtOC-AICA)
To a stirred refluxing mixture of 2-aminoindan-2-carboxylic acid (1.90 g, 10.7 mmol, Pinder, R. M.; Butcher, B. H.; Buxton, D. A.; and Howells, O. J. J. Med. Chem. 1971, 14, 892) in ethyl acetate (200 ml) ws added ethyl chloroformate (1.16 g, 10.7 mmol). After 15 hours, the mixture was cooled, filtered, evaporated, and vacuum dried to give 1.17 g (44%) of a white solid.

reactant | 2-aminoindan-2-carboxylic acid | NC1(CC2=CC=CC=C2C1)C(=O)O | C10H11NO2
reactant | ethyl chloroformate | 10.7 mmol, 1.16 g | ClC(=O)OCC | C3H5ClO2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 2-Ethoxycarbonylaminoindan-2-carboxylic Acid | 1.17 g, 44% | C(C)OC(=O)NC1(CC2=CC=CC=C2C1)C(=O)O | C13H15NO4
